US07371743B2
(b) 4-(1,1-dioxo-6-methyl-[1,2,6]-thiadiazinan-2-yl)-3-methyl-benzoic acid
Prepared analogously to Example 39d from methyl 4-(1,1-dioxo-3-methyl-[1,2,6]thiadiazinan-2-yl)-3-methyl-benzoate and lithium hydroxide in ethanol.

reactant | methyl 4-(1,1-dioxo-3-methyl-[1,2,6]thiadiazinan-2-yl)-3-methyl-benzoate | O=S1(N(C(CCN1)C)C1=C(C=C(C(=O)OC)C=C1)C)=O | C13H18N2O4S
reactant | lithium hydroxide | [OH-].[Li+]
reactant | ethanol | C(C)O | C2H6O
product | 4-(1,1-dioxo-6-methyl-[1,2,6]-thiadiazinan-2-yl)-3-methyl-benzoic acid | O=S1(N(CCCN1C)C1=C(C=C(C(=O)O)C=C1)C)=O | C12H16N2O4S
